US08802728B2
Add a solution of t-BuLi (19.4 mL, 25.2 mmol) via syringe to a solution of (3-bromo-5-fluoro-phenoxy)-tert-butyl-dimethyl-silane (6.99 g, 22.9 mmol) in THF (100 mL) at −78° C. under N2. After being stirred at −78° C. for 1 hour, add dropwise a solution of 3-dimethylaminomethyl-bicyclo[4.1.0]heptan-2-one (2.55 g, 15.3 mmol) to the reaction mixture and stir the reaction mixture at −78° C. for additional 2 hours. Quench the reaction with saturated NH4Cl solution (30 mL). Extract the resultant aqueous mixture with EtOAc (100 mL×3). The combined organic layers are washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Treat the residue with TBAF (6.00 g, 22.9 mmol) in CH2Cl2 (80 mL) at ambient temperature for 4 hours. Concentrate the mixture, and purify the residue by preparative HPLC to give 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol as white solid (592 mg, yield: 13.9%). MS (m/z): 280 (M+1).

reactant | t-BuLi | 25.2 mmol, 19.4 mL | [Li]C(C)(C)C
reactant | (3-bromo-5-fluoro-phenoxy)-tert-butyl-dimethyl-silane | 22.9 mmol, 6.99 g | BrC=1C=C(O[Si](C)(C)C(C)(C)C)C=C(C1)F | C12H18BrFOSi
reactant | 3-dimethylaminomethyl-bicyclo[4.1.0]heptan-2-one | 15.3 mmol, 2.55 g | CN(C)CC1C(C2CC2CC1)=O | C10H17NO
reactant | TBAF | 22.9 mmol, 6.00 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol | 592 mg, yield: 13.9% | CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC(=C1)O)F | C16H22FNO2
